US04130568
A solution of 52.2 g (0.223 mole) of crude 2-hydroxy-9-methoxy-2,3-dihydro-7H-furo[3,2-g][1]benzopyran-7-one in 900 ml of 98% formic acid was heated under argon at 100° for 45 min. The solvent was removed in vacuo and the dark residue crystallized. After drying on the high vac, the crude product, was taken up in the minimum amount of warm methylene chloride and filtered through an alumina column. Evaporation of fractions afforded pure methoxsalen, mp 145°-146°.

reactant | 2-hydroxy-9-methoxy-2,3-dihydro-7H-furo[3,2-g][1]benzopyran-7-one | 0.223 mole, 52.2 g | OC1CC=2C(=C(C3=C(C=CC(O3)=O)C2)OC)O1 | C12H10O5
solvent | formic acid | 900 ml | C(=O)O | CH2O2
product | methoxsalen | COC1=C2C(C=CO2)=CC3=C1OC(=O)C=C3 | C12H8O4
